US07255811B2
1.2 Preparation of 1,3-difluoro-2-iodo-5-(3-butenyl)-benzene
0.41 mol 1,3 difluoro-5-(3-butenyl)-benzene was added to a dry round bottom flask with 300 ml anhydrous tetrahydrofuran. After cooling under a nitrogen atmosphere to −70° C. a solution of 0.46 mol of n-butyllithium in 280 ml hexane was added. After stirring at −70° C. for 30 minutes a mixture of 0.46 mol of Iodine in 200 ml tetrahydrofuran was added slowly over 2 hours. The reaction was left to warm to room temperature overnight. The reaction was quenched by pouring onto ice/hydrochloric acid mixture. The layers were separated and the aqueous layer extracted twice with diethyl ether (2×100 ml). The combined organic layers were washed with 50 g sodium thiosulphate in 200 ml water to remove excess iodine, then with water (2×50 ml) and dried over anhydrous sodium sulphate. Removal of the solvent yielded 126 g of the title compound as a beige solid.

reactant | 1,3 difluoro-5-(3-butenyl)-benzene | 0.41 mol | FC1=CC(=CC(=C1)CCC=C)F | C10H10F2
reactant | n-butyllithium | 0.46 mol | C(CCC)[Li]
reactant | Iodine | 0.46 mol | II | I2
solvent | hexane | 280 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1,3-difluoro-2-iodo-5-(3-butenyl)-benzene | 126 g | FC1=C(C(=CC(=C1)CCC=C)F)I | C10H9F2I
